US07935716B2
160 mg of ethyl 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate and 60 mg of 2-aminothiazole were added to 1.5 ml of bromobenzene, then, the mixture was stirred for 5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature, then, hexane was added to this and the resultant mixture was allowed to stand still. The resulting solid was collected by filtration, and washed with a mixture of t-butyl methyl ether and n-hexane and dried to obtain 136 mg of 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-N-(2-thiazolyl)-1,2-d ihydropyridine-3-carboxamide (hereinafter, referred to as present compound 30) represented by the formula:

reactant | ethyl 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate | 160 mg | ClC=1C(=C(C(N(C1C)C)=O)C(=O)OCC)O | C10H12ClNO4
reactant | 2-aminothiazole | 60 mg | NC=1SC=CN1 | C3H4N2S
reactant | bromobenzene | 1.5 ml | BrC1=CC=CC=C1 | C6H5Br
solvent | hexane | CCCCCC | C6H14
product | 5-chloro-1,6-dimethyl-4-hydroxy-2-oxo-N-(2-thiazolyl)-1,2-d ihydropyridine-3-carboxamide | 136 mg | ClC=1C(=C(C(N(C1C)C)=O)C(=O)NC=1SC=CN1)O | C11H10ClN3O3S
